US04426385
Part C: Preparation of 1-(3-Chloro-4-[2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy]phenyl)-3-(2,6-difluorobenzoyl) urea
Solution containing 4.0 g (13.8 m moles) of 3-chloro-4-(2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy)aniline in 45 ml of toluene was placed under an atmosphere of nitrogen and heated to 70° C. To this was added 3.79 g (20 m moles) of 2,6-difluorobenzoyl isocyanate in 5 ml of toluene via an addition funnel. The resulting mixture was heated for 45 min. and then cooled to room temperature. The mixture was further cooled below 0° C. in a freezer and then filtered. The collected solid was washed with cold toluene. This was dried under vacuum to afford 5.43 g of the desired product as a white solid, mp 171° C. NMR (DMSO-d6): δ1.40 (s, 6H), 3.05 (s, 2H), 6.3-8.0 (m, 10H), 10.20 (broad s, 1H), 11.47 (broad s, 1H).

reactant | 3-chloro-4-(2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy)aniline | 4.0 g | ClC=1C=C(N)C=CC1OC1=CC=CC=2CC(OC21)(C)C | C16H16ClNO2
reactant | 2,6-difluorobenzoyl isocyanate | 3.79 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Chloro-4-[2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy]phenyl)-3-(2,6-difluorobenzoyl) urea | 5.43 g | ClC=1C=C(C=CC1OC1=CC=CC=2CC(OC21)(C)C)NC(=O)NC(C2=C(C=CC=C2F)F)=O | C24H19ClF2N2O4
